US07745452B2
Utilizing the general procedure outlined for 6-chloro-4-phenyl-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one, 6-chloro-4-hydroxy-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one (100 mg, 0.3 mmol) was reacted with 1.0M butyl magnesium chloride (1.0 ml, 1.0 mmol) to afford 4-butyl-6-chloro-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one as an oil. 1H NMR (CD3OD, 400 MHz) δ 7.41 (s, 1H), 7.35 (dd, J=2.4 and 8.4 Hz, 1H), 6.9 (d, J=8.4 Hz, 1H), 4.55 (m, 1H), 4.29 (m, 1H), 2.50 (m, 1H), 2.22 (m, 1H), 1.40 (m, 2H), 1.24 (m, 1H), 1.13 (m, 1H), 0.90 (m, 3H). Exact Mass (Electrospray, M+H) Cal'd, 389.0850; Found, 389.0850.

reactant | 6-chloro-4-phenyl-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C(F)(F)F)C1=CC=CC=C1 | C17H11ClF6N2O
reactant | 6-chloro-4-hydroxy-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | 0.3 mmol, 100 mg | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C(F)(F)F)O | C11H7ClF6N2O2
reactant | butyl magnesium chloride | 1.0 mmol, 1.0M, 1.0 ml | C(CCC)[Mg]Cl
product | 4-butyl-6-chloro-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | C(CCC)C1(N(C(NC2=CC=C(C=C12)Cl)=O)CC(F)(F)F)C(F)(F)F | C15H15ClF6N2O
